US07842696B2
DIPEA (0.084 mL, 0.49 mmol) was added drop wise to 4-benzenesulfinyl-benzoic acid (48 mg, 0.19 mmol) in DMF (4 mL). EDCI (78 mg, 0.41 mmol) and HOBT 26 mg, 0.19 mmol) were added consecutively and 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone in its TFA salt form (70 mg, 0.16 mmol) was added after a further 10 mins. The resulting mixture was allowed to stir at room temperature overnight. Water was then added and the product was extracted with EtOAc and washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford a crude product. Purification by column chromatography (using silica gel with a mesh size of 60-120 and 100% EtOAc as eluent) afforded 45 mg (51% yield) of 4-benzenesulfinyl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide. LC-MS purity: 91.93%. 1H NMR (DMSO-D6): δ 8.7 (t, 1H), 8 (m, 3H), 7.8 (m, 6H), 7.5 (m, 3H), 7.2 (m, 1H), 4.2 (d, 2H), 3.6 (m, 6H), 3.1 (m, 2H).

reactant | DIPEA | 0.49 mmol, 0.084 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-benzenesulfinyl-benzoic acid | 0.19 mmol, 48 mg | C1(=CC=CC=C1)S(=O)C1=CC=C(C(=O)O)C=C1 | C13H10O3S
reactant | EDCI | 0.41 mmol, 78 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.19 mmol, 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-benzenesulfinyl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 45 mg, 51% yield | C1(=CC=CC=C1)S(=O)C1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C27H24F3N3O4S
